Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ woman with hypertension, chronic back
pain, GERD, mild peripheral vascular disease and osteoarthritis
presenting to the ED with 2 days of subjective fevers, but no
other symptoms.

She complains that she had a bad URI in ___, which felt like
the flu and never went to the doctor. Two days ago she noticed
intermittent feelings of feeling hot with mild chills, but did
not take her temperature. She denied any cough, shortness of
breath, abdominal pain, diarrhea, dysuria, muscle aches, sore
throat or congestion. Other than the intermittent fevers she
feels well. She does complain of her back and neck pain which is
chronic. 

She is relatively independent, but resides with her daughter. 
She
denied any headaches, dizziness, decreased appetite, nausea,
chest pain, palpitations, or leg swelling. No sick contacts or
travel.

In the ED, initial VS were:  97.6 38 160/88 14 100% RA 

EKG: Sinus P-waves with bradycardia and sinus arrhythmia,
junctional escape at rate of 40 c/w CHB vs sinus node 
dysfunction
with RBBB morphology, Qtc not prolonged. non-specific inferior
T-wave inversions. 

Labs showed:  BNP not elevated, troponin 0.01, no leukocytosis

Imaging showed: Portal CXR
Minimal indistinct right lower lung opacities could reflect
developing
pneumonia, in the appropriate clinical setting. (no clear
infiltrate)
 
Consults: Cardiology:
"Sinus bradycardia intermittent with junctional escape and slow
sinus beats. No evidence of block. Pt denies syncope,
pre-syncope. With exercise in bed HR increased to ___ and with
sinus conduction. 
 - Hold nodal agents
 - Check TSH
 - OK for admit to medicine floor"

Patient received: CFTX 1 g and azithromycin 500 mg
 
Transfer VS were:  42 ___ 97% RA 
 
Past Medical History:
___. PYLORI 
HERPES ZOSTER 
HYPERTENSION 
LAP CHOLECYSTECTOMY 
LUMBAR RADICULOPATHY 
R EYE CATARACT SURGERY 
R HIP PAIN 
GASTROESOPHAGEAL REFLUX 
MILD MR 
MILD PULMONARY HYPERTENSION 
 
Social History:
___
Family History:
Reviewed.  None pertinent to this hospitalization
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
VS:  97.5PO 159 / 84 43   99 
GENERAL: NAD  well appearing
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD. strong carotid pulses
HEART: Regular bradycardia, S1/S2, no murmurs, gallops, or rubs  

LUNGS: Egophony in bilateral lower lung fields and in R middle
field. Decreased air movement in lower fields, no wheezing. 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 

========================
DISCHARGE PHYSICAL EXAM
========================
VS: T 97.9 BP 153/61 HR 46 RR 18 SpO2 98 Ra 
GENERAL: NAD  well appearing
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD. strong carotid pulses
HEART: Regular bradycardia, S1/S2, no murmurs, gallops, or rubs  

LUNGS: No appreciable egophony on exam this AM. Decreased air
movement throughout, worse in lower lobes, no wheezing or
crackles. 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 12:55PM BLOOD WBC-5.6 RBC-4.64 Hgb-13.8 Hct-41.3 MCV-89 
MCH-29.7 MCHC-33.4 RDW-13.3 RDWSD-43.2 Plt ___
___ 12:55PM BLOOD Neuts-54.8 ___ Monos-8.9 Eos-1.8 
Baso-0.4 Im ___ AbsNeut-3.08 AbsLymp-1.90 AbsMono-0.50 
AbsEos-0.10 AbsBaso-0.02
___ 12:55PM BLOOD Glucose-85 UreaN-13 Creat-0.9 Na-140 
K-5.2* Cl-100 HCO3-26 AnGap-14
___ 12:55PM BLOOD Calcium-9.9 Phos-3.2 Mg-2.1
___ 12:55PM BLOOD TSH-4.1
___ 01:09PM BLOOD Lactate-1.5 K-5.2*

==================
IMAGING/PROCEDURES
==================
___ CXR Portable: 
Minimal indistinct right lower lung opacities could reflect 
developing
pneumonia, in the appropriate clinical setting.  A lateral view 
radiograph may
be helpful for further evaluation.

___ CHEST (PA & LAT):
In comparison with the study of ___, there is increasing 
opacification
at the right base, consistent with the clinical concern for 
possible right
lower lobe pneumonia.  Otherwise, little change.

=============
MICROBIOLOGY
=============
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
___ 12:55 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):
 
___ 1:19 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
===============
DISCHARGE LABS
===============
___ 12:55PM BLOOD WBC-5.6 RBC-4.64 Hgb-13.8 Hct-41.3 MCV-89 
MCH-29.7 MCHC-33.4 RDW-13.3 RDWSD-43.2 Plt ___
___ 12:55PM BLOOD Neuts-54.8 ___ Monos-8.9 Eos-1.8 
Baso-0.4 Im ___ AbsNeut-3.08 AbsLymp-1.90 AbsMono-0.50 
AbsEos-0.10 AbsBaso-0.02
___ 12:55PM BLOOD Plt ___
___ 12:55PM BLOOD Glucose-85 UreaN-13 Creat-0.9 Na-140 
K-5.2* Cl-100 HCO3-26 AnGap-14
___ 12:55PM BLOOD proBNP-271
___ 01:19PM BLOOD cTropnT-0.01
___ 12:55PM BLOOD Calcium-9.9 Phos-3.2 Mg-2.1
___ 12:55PM BLOOD TSH-4.1
___ 01:09PM BLOOD Lactate-1.5 K-5.2*
 
Brief Hospital Course:
========
Summary
========
Ms. ___ is a ___ woman with hypertension, chronic 
back pain, GERD, mild peripheral vascular disease and 
osteoarthritis presenting to the ED with 2 days of subjective 
fevers, but no other symptoms. Portable CXR showed a possible 
RLL infiltrate and follow-up PA/Lat CXR showed worsening 
opacification in RLL consistent with pneumonia. Patient 
otherwise asymptomatic. Started on Po doxycycline and 
ceftriaxone on admission and transitioned to PO Doxycycline and 
PO Cefpodoxime on discharge to complete a five day course.

==============================
Acute Medical/Surgical Issues
==============================
# Community Acquired Bacterial Pneumonia
Patient presented with 2 days of subjective fevers with absence 
of
other symptoms. No leukocytosis or cough to support a diagnosis
of PNA. CXR with possible RLL infiltrate but difficult to 
determine on portable study. Follow-up PA/Lateral film showed 
increasing opacification in RLL consistent with pneumonia. 
Started on azithromycin and ceftriaxone on admission for empiric 
CAP treatment and switched to doxycycline/ceftriaxone due to 
concern for using QT prolonging agents in setting of 
bradycardia. Blood cultures pending at discharge. Discharged on 
Cefpodoxime and Doxycycline to complete a 5 day course 
(___).

# Sinus Bradycardia with high grade junctional escape
Patient completely asymptomatic from a cardiac standpoint. On 
review of EKG's, P-wave morphology is the same as ___ EKG. 
Short PR
interval argues against conduction disease. Differential
diagnosis includes a sinus bradycardia and sinus arrhythmia with
a high grade junctional escape or complete heart block. Given 
that she is asymptomatic and HR increases with improved 
conduction when exerting herself, not likely complete heart 
block. Holding propanol at discharge. 

#HTN: Initially held HCTZ due to concern for ongoing infection 
and held propranolol due to bradycardia. Restarted HCTZ at 
discharge but will continue to hold propranolol due to 
bradycardia.

===================
Medication Changes
===================
- Started Doxycycline 100mg PO Q12H and Cefpodoxime 400mg Q12H 
(___)
- Stopped Propanolol due to significant bradycardia

===================
Transitional Issues
===================
[ ] Community Acquired Pneumonia: Patient to complete a five day 
course of antibiotics with Doxycycline 100mg PO Q12H and 
Cefpodoxime 400mg Q12H (___). Please evaluate at PCP 
appointment on ___ to symptoms resolved. If still having 
symptoms, would consider getting a repeat CXR, cultures, and 
potential inpatient admission for treatment with IV antibiotics.
[ ] Sinus Bradycardia with high grade junctional escape: Patient 
with appropriate chronotropic compensation to exercise and 
asymptomatic. Not likely complete heart block. Would get repeat 
ECG as outpatient to reevaluate bradycardia. Pacemaker not 
needed as patient asymptomatic and no evidence of complete heart 
block

#CODE: Full (confirmed) 
#CONTACT: Daughter ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Propranolol 60 mg PO DAILY 
3. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every 12 hours Disp 
#*16 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve hours Disp #*8 Capsule Refills:*0 
3.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
4.  Hydrochlorothiazide 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
==================
Primary Diagnosis
==================
Community Acquired Pneumonia

===================
Secondary Diagnosis
===================
Sinus Bradycardia with high grade junctional escape

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
  - You had fever and had a chest x-ray which showed you have a 
pneumonia or lung infection

What was done while I was in the hospital?
  - You had a chest x-ray which showed you had a pneumonia or 
lung infection
  - You were started on antibiotics to treat your lung infection
  - You were found to have a slow heart rate but was not 
concerning because you felt well and your heart rate increased 
when you did activity.

What should I do when I go home?
  - It is very important that you take your antibiotics for the 
full course.
  - Please go to your scheduled appointment with your primary 
doctor.
  - If you have worsening shortness of breath, cough, 
nausea/vomiting, or feel increasingly fatigued, please tell your 
primary doctor or go to the emergency room.

Best wishes, 
  Your ___ team

 
Followup Instructions:
___